US08022222B2
Using the method of Example 3, Step A, 2,6-dichlorophenol (2.06 g, 12.6 mmol), 60% sodium hydride in mineral oil (505 mg, 12.6 mmol), and 2-chloro-4-nitropyridine (2.00 g, 12.6 mmol) were reacted at 80° C. overnight to provide 2-chloro-4-(2,6-dichlorophenoxy)pyridine (2.23 g, 64% yield) as an oil. 1H NMR (CDCl3) δ 8.27 (d, 1H), 7.44 (d, 2H), 7.24 (t, 1H), 6.71-6.75 (m, 2H).

reactant | 2,6-dichlorophenol | 12.6 mmol, 2.06 g | ClC1=C(C(=CC=C1)Cl)O | C6H4Cl2O
reactant | sodium hydride | [H-].[Na+]
reactant | 2-chloro-4-nitropyridine | 12.6 mmol, 2.00 g | ClC1=NC=CC(=C1)[N+](=O)[O-] | C5H3ClN2O2
product | 2-chloro-4-(2,6-dichlorophenoxy)pyridine | 2.23 g, 64% yield | ClC1=NC=CC(=C1)OC1=C(C=CC=C1Cl)Cl | C11H6Cl3NO
